US09416132B2
79. N-(trans-4-(2-aminopropan-2-yl)cyclohexyl)-3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-amine (EX. 8-79)
A mixture of N-(trans-4-(2-azidopropan-2-yl)cyclohexyl)-3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-amine (90 mg, 0.22 mmol) and Pd/C (30 mg) in MeOH (5 mL) and CH2Cl2 (5 mL) was hydrogenated under 50 psi of H2 at room temperature for 48 h. LCMS showed the reaction was complete. The mixture was filtered and the filtrate was concentrated in vacuo. The residue was purified by prep. HPLC to give EX. 8-79 (4 mg, 5%) as an off-white solid.

reactant | N-(trans-4-(2-azidopropan-2-yl)cyclohexyl)-3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-amine | 0.22 mmol, 90 mg | N(=[N+]=[N-])C(C)(C)[C@@H]1CC[C@H](CC1)NC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)Cl | C21H24ClN7
solvent | MeOH | 5 mL | CO | CH4O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | N-(trans-4-(2-aminopropan-2-yl)cyclohexyl)-3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-amine | NC(C)(C)[C@@H]1CC[C@H](CC1)NC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)Cl | C21H26ClN5
